US04644005
D2. ethyl 1-ethyl-5-benzoyloxindole-3-carboxylate
To a solution of 1.89 g. of sodium metal in 55 ml. of ethanol cooled to 0° C. was added 9.96 ml. of diethyl carbonate followed by 6.5 g. (27.43 mmoles) of 1-ethyl-5-benzoyloxindole. After heating for 2 hours at 65° C. on an oil bath, the reaction mixture was poured into a cold mixture of 250 ml. 1N hydrochloric, 250 ml. of a saturated brine solution and 200 ml. of methylene chloride. The organic phase was separated, dried and concentrated in vacuo. The excess diethylcarbonate was removed under high vacuum and the residue recrystallized from methylene chloride and cyclohexane, 2.1 g. 1st crop and 3.78 g. 2nd crop.

reactant | sodium | [Na] | Na
reactant | ethanol | C(C)O | C2H6O
reactant | diethyl carbonate | C(OCC)(OCC)=O | C5H10O3
reactant | 1-ethyl-5-benzoyloxindole | 27.43 mmoles | C(C)N1C(CC2=CC(=CC=C12)C(C1=CC=CC=C1)=O)=O | C17H15NO2
solvent | brine | [Cl-].[Na+].O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | ethyl 1-ethyl-5-benzoyloxindole-3-carboxylate | C(C)N1C(C(C2=CC(=CC=C12)C(C1=CC=CC=C1)=O)C(=O)OCC)=O | C20H19NO4
